US06403681B2
1,3-Bis(4-octadecanoyloxy-2,2,6,6-tetramethyl piperidin-1-yloxy)-2-methyl-2-propanol
Aqueous hydrogen peroxide is added to a mixture of 4-octadecanoyloxy-1-oxyl-2,2,6,6-tetramethylpiperidine and ferrous chloride tetrahydrate in tert-butyl alcohol at 30-50° C. Excess peroxide is decomposed with aqueous sodium sulfite solution. The organic layer is concentrated to obtain a mixture which includes 1-(2-hydroxy-2-methylpropoxy)-4-octa-decanoyloxy-2,2,6,6-tetramethylpiperidine and the title compound. The title compound is separated from the mixture by high pressure liquid chromatography.

reactant | hydrogen peroxide | OO | H2O2
reactant | 4-octadecanoyloxy-1-oxyl-2,2,6,6-tetramethylpiperidine | C(CCCCCCCCCCCCCCCCC)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C27H53NO3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | tert-butyl alcohol | C(C)(C)(C)O | C4H10O
product | 1,3-Bis(4-octadecanoyloxy-2,2,6,6-tetramethyl piperidin-1-yloxy)-2-methyl-2-propanol | C(CCCCCCCCCCCCCCCCC)(=O)OC1CC(N(C(C1)(C)C)OCC(CON1C(CC(CC1(C)C)OC(CCCCCCCCCCCCCCCCC)=O)(C)C)(O)C)(C)C | C58H112N2O7
